US08252275B2
D. Preparation of 9-hydroxymethyl-7-(3-carboxy-propyl)-4-fluorenecarboxylic acid
In an argon-purged flask, crude 9-formyl-7-(3-carboxy-propyl)-4-fluorenecarboxylic acid (4.0 g, 0.0123 mol) was dissolved in anhydrous methanol (50 mL). The flask was placed in a room temperature bath and sodium borohydride (2.3 g, 0.0615 mol) was carefully added to the reaction in portions (Caution! Flammable gas evolution.). The reaction was stirred for two hours and another portion of sodium borohydride was added (1.2 g, 0.031 mol). After another six hours the reaction was treated with a small amount of water. The organic solvent was partially removed at reduced pressure and the mixture was acidified with concentrated HCl. Brine was added and the product was twice extracted with ethyl acetate (300 mL and 100 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and evaporated to dryness. The crude product (3.3 g, 83%) was purified by flash chromatography: silica gel 60 Å eluted with 50:50:2 ethyl acetate/chloroform/glacial acetic acid. The purified product was an orange solid (1.7 g, 43%). 1H-NMR (CD3OD): δ (ppm) 8.3 (d, 1H, Ar); 7.8 (m, 2H, Ar); 7.6 (s, 1H, Ar); 7.4 (t, 1H, Ar); 7.2 (m, 1H, Ar); 4.0 (m, 2H, CH2); 3.9 (m, 1H, CH); 2.8 (t, 2H, CH2); 2.4 (t, 2H, CH2); 2.0 (m, 2H, CH2).

reactant | 9-formyl-7-(3-carboxy-propyl)-4-fluorenecarboxylic acid | 0.0123 mol, 4.0 g | C(=O)C1C2=CC(=CC=C2C=2C(=CC=CC12)C(=O)O)CCCC(=O)O | C19H16O5
reactant | sodium borohydride | 0.0615 mol, 2.3 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | 9-hydroxymethyl-7-(3-carboxy-propyl)-4-fluorenecarboxylic acid | OCC1C2=CC(=CC=C2C=2C(=CC=CC12)C(=O)O)CCCC(=O)O | C19H18O5
